US07432258B2
N1-[(1R)-1-[4′-(acetylamino)-4-biphenylyl]-2-(1-pyrrolidinyl)ethyl]-N2-(cyanomethyl)-N2-(3,4-dichlorophenyl)-N1-methylglycinamide
Proceeding in a similar manner as in example 85, but replacing 1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine with (1R)-1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine and replacing (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid with N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycine in step a) and replacing 3,4-dimethoxyphenylboronic acid with [4-(acetylamino)phenyl]boronic acid in step b), the title compound was prepared. MS (ES) m/e 578 [M+H]+.

reactant | (1R)-1-(4-bromophenyl)-N-methyl-2-(1-pyrrolidinyl)ethanamine | BrC1=CC=C(C=C1)[C@H](CN1CCCC1)NC | C13H19BrN2
reactant | N-(cyanomethyl)-N-(3,4-dichlorophenyl)glycine | C(#N)CN(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl | C10H8Cl2N2O2
reactant | [4-(acetylamino)phenyl]boronic acid | C(C)(=O)NC1=CC=C(C=C1)B(O)O | C8H10BNO3
product | N1-[(1R)-1-[4′-(acetylamino)-4-biphenylyl]-2-(1-pyrrolidinyl)ethyl]-N2-(cyanomethyl)-N2-(3,4-dichlorophenyl)-N1-methylglycinamide | C(C)(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)[C@H](CN1CCCC1)N(C(CN(C1=CC(=C(C=C1)Cl)Cl)CC#N)=O)C | C31H33Cl2N5O2
